US08236792B2
(2S,4R)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-isopropoxy-pyrrolidine-1-carboxylic acid tert-butyl ester.
To a solution of (2S,4R)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (287 mg, 0.78 mmol) in DMF (7.8 mL) was added NaH (90%; 31 mg). After 30 min, 2-bromopropane (109 μL, 1.17 mmol) was added and the mixture was allowed to warm to rt and was stirred for 18 h. The mixture was diluted with satd. aq. NaHCO3 and extracted with CH2Cl2. The combined organic layers were dried and concentrated. The crude product was purified by FCC to provide the desired product (26 mg, 8%). MS (ESI): mass calcd. for C22H39N3O4, 409.29; m/z found, 410.4 [M+H]+. 1H NMR (CDCl3): 4.74-4.58 (m, 1H), 4.33-4.16 (m, 1H), 3.74-3.33 (m, 7H), 2.90-2.78 (m, 1H), 2.59-2.30 (m, 4H), 2.19-2.11 (m, 1H), 2.10-1.96 (m, 4H), 1.87-1.72 (m, 3H), 1.69-1.53 (m, 2H), 1.40 (d, J=17.6 Hz, 9H), 1.12 (dd, J=6.0, 2.2 Hz, 6H).

reactant | (2S,4R)-2-(4-cyclobutyl-[1,4]diazepane-1-carbonyl)-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.78 mmol, 287 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)N1CCN(CCC1)C1CCC1 | C19H33N3O4
reactant | NaH | 31 mg | [H-].[Na+]
reactant | 2-bromopropane | 1.17 mmol, 109 μL | BrC(C)C | C3H7Br
solvent | DMF | 7.8 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-2-(4-Cyclobutyl-[1,4]diazepane-1-carbonyl)-4-isopropoxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 26 mg, 8% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC(C)C)C(=O)N1CCN(CCC1)C1CCC1 | C22H39N3O4
